US04000196
1-Phenyl-1,3-dimethyl-2-hydroxyguanidine
The above compound is also made by the reaction of S-methyl-N-phenyl-N,N'-dimethylisothiourea (3.3g, 0.017 mol) with hydroxylamine (0.088 mol) generated from hydroxylamine hydrochloride (5.86g, 0.088 mol) as in Example 1. The compound was confirmed by comparison of its NMR and thin layer chromatographic Rf values with a previously prepared compound. The yield was calculated to be about 1%.

reactant | S-methyl-N-phenyl-N,N'-dimethylisothiourea | 0.017 mol, 3.3g | CSC(N(C)C1=CC=CC=C1)=NC | C10H14N2S
reactant | hydroxylamine | 0.088 mol | NO | H3NO
reactant | hydroxylamine hydrochloride | 0.088 mol, 5.86g | Cl.NO
product | 1-Phenyl-1,3-dimethyl-2-hydroxyguanidine | C1(=CC=CC=C1)N(C(=NO)NC)C | C9H13N3O
